US09359344B2
The crude 3-(3-fluoro-4-(6-((1-(methoxymethyl)-1H-1,2,3-triazol-4-yl)amino)pyridine-3-yl)phenyl)-5-(hydroxylmethyl)oxazolidin-2-one obtained in the last step was dissolved in 20 mL tetrahydrofuran. Into the solution were added 20 mL of 6 N hydrochloric acid and 4 mL of concentrated hydrochloric acid, and reacted and refluxed for 18 h. After concentration and chromatography on a silica gel column (CH3OH:CH2Cl2=1:50), a light yellow solid was obtained. Recrystallization from methanol yielded 70 mg of 3-(4-(6-((1H-1,2,3-triazol-4-yl)amino)pyridin-3-yl)-3-fluorophenyl)-5-(hydroxylmethyl)oxazolidin-2-one, at a yield over two steps of 16.9%.

reactant | 3-(3-fluoro-4-(6-((1-(methoxymethyl)-1H-1,2,3-triazol-4-yl)amino)pyridine-3-yl)phenyl)-5-(hydroxylmethyl)oxazolidin-2-one | FC=1C=C(C=CC1C=1C=NC(=CC1)NC=1N=NN(C1)COC)N1C(OC(C1)CO)=O | C19H19FN6O4
reactant | hydrochloric acid | 6 N, 20 mL | Cl | ClH
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(4-(6-((1H-1,2,3-triazol-4-yl)amino)pyridin-3-yl)-3-fluorophenyl)-5-(hydroxylmethyl)oxazolidin-2-one | 70 mg | N1N=NC(=C1)NC1=CC=C(C=N1)C1=C(C=C(C=C1)N1C(OC(C1)CO)=O)F | C17H15FN6O3
